.title mos1 inverter

.width out=150
.options itl4=40

.model nmos nmos level=1 vto=0.7
.model pmos pmos level=1 vto=-0.7

.subckt n 1 2 3 4
Mn1 1 2 3 4 NMOS W=8e-6 L=600e-9 
.ends

X1 3 2 0 0 n
X2 3 2 4 4 n
Mn1 3 2 0 0 NMOS W=8e-6 L=600e-9 
Mn2 3 2 5 5 NMOS W=8e-6 L=600e-9 
Mp1 3 2 1 1 PMOS W=8e-6 L=600e-9 


vdd 1 0 5
vin 2 0 PWL (0 0, 1n 0, 3n 5, 10n 5, 12n 0, 20n 0)

.print dc v(X*.Mn1.dsb) v(Mn1.dsb) v(Mp1.dsb) v(Mn2.dsb) v(3)
.dc vin 0 5 1

.status notime
.end
